US05965730
To a solution of 2-bromo-4,5-dimethoxybenzaldehyde dimethyl acetal (21.8 g) in tetrahydrofuran (80 ml) is added dropwise a solution of n-butyl lithium (1.6 M hexane solution, 46.8 ml) at a temperature below -50° C. under nitrogen atmosphere, and the mixture is stirred for 20 minutes. The resulting solution is added dropwise into a solution of 2-bromo-N,N-dimethylisonicotinamide (18.1 g) in tetrahydrofuran (80 ml) at a temperature below -60° C., and the mixture is stirred for 30 minutes. To the reaction mixture is added acetic acid (4.5 ml), and the mixture is poured into water, and extracted with ethyl acetate. The extract is washed, dried, and concentrated, and the residue is purified by silica gel column chromatography (solvent; hexane:ethyl acetate=2:1) to give 3,4-dimethoxy-6-(2-bromoisonicotinoyl)benzaldehyde dimethyl acetal (13.9 g) as an oily product.

reactant | 2-bromo-4,5-dimethoxybenzaldehyde dimethyl acetal | 21.8 g | COC(C1=C(C=C(C(=C1)OC)OC)Br)OC | C11H15BrO4
reactant | n-butyl lithium | 1.6 M, 46.8 ml | C(CCC)[Li]
reactant | 2-bromo-N,N-dimethylisonicotinamide | 18.1 g | BrC=1C=C(C(=O)N(C)C)C=CN1 | C8H9BrN2O
reactant | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3,4-dimethoxy-6-(2-bromoisonicotinoyl)benzaldehyde dimethyl acetal | 13.9 g | COC(C1=CC(=C(C=C1C(C1=CC(=NC=C1)Br)=O)OC)OC)OC | C17H18BrNO5
